US08309580B2
(4) (5-tert-butyl-2-methyl-3-furyl)(cyclohexyl)methanol
An operation similar to that in Example 3 (2) was performed using 5-tert-butyl-2-methyl-3-furaldehyde (2.5 g) and 1N cyclohexylmagnesium bromide-tetrahydrofuran solution (23 mL) to give the title compound (2.3 g, 62%) as an oil.

reactant | 5-tert-butyl-2-methyl-3-furaldehyde | 2.5 g | C(C)(C)(C)C1=CC(=C(O1)C)C=O | C10H14O2
reactant | cyclohexylmagnesium bromide tetrahydrofuran | 1N, 23 mL | C1(CCCCC1)[Mg]Br.O1CCCC1
product | (5-tert-butyl-2-methyl-3-furyl)(cyclohexyl)methanol | 2.3 g, 62% | C(C)(C)(C)C1=CC(=C(O1)C)C(O)C1CCCCC1 | C16H26O2
